US06307070B1
Chloromethyl methyl ether (0.4 ml, 5.27 mmol) was added dropwise to a stirred solution containing 4,6-dihydroxy-5-prenyl-3-benzofuranone (0.5 g, 2.14 mmol) and triethylamine (1 ml) in dimethylformamide (50 ml). After stirring at room temperature for 18 hours, water (100 ml) was added to destroy any excess chloromethyl methyl ether. The reaction mixture was extracted with ethyl acetate (2×250 ml), and the combined organic extracts were washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo to give a light brown syrup. The crude mixture was chromatographed on silica gel, eluting with a mixture of ethyl acetate and hexanes (1:3), to give 4,6-bismethoxymethoxy-5-prenyl-3-benzofuranone (0.612 g, 88.8%) as a colorless powder.

reactant | Chloromethyl methyl ether | 5.27 mmol, 0.4 ml | COCCl | C2H5ClO
reactant | 4,6-dihydroxy-5-prenyl-3-benzofuranone | 2.14 mmol, 0.5 g | OC1=C(C(=CC2=C1C(CO2)=O)O)CC=C(C)C | C13H14O4
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4,6-bismethoxymethoxy-5-prenyl-3-benzofuranone | 0.612 g, 88.8% | COCOC1=C(C(=CC2=C1C(CO2)=O)OCOC)CC=C(C)C | C17H22O6
